US08492549B2
3-(3-[(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl]phenoxy)propan-1-ol
(R*)-3-{1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol (208 mg, 0.64 mmol), K2CO3 (103 mg, 0.74 mmol), 3-bromo-1-propanol (86 mg, 0.62 mmol) and MeCN (5 ml) were heated under microwaves at 105° C. for 6 h. More K2CO3 (103 mg) and 3-bromo-1-propanol (86 mg) were added and the heating was continued for 2 h. The solvent was removed and the residue was taken up in DCM. This solution was washed with water and 1 M NaOH and evaporated to dryness. Flash chromatography (heptane/EtOAc) gave 76 mg of the title compound.

reactant | (R*)-3-{1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol | 0.64 mmol, 208 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O | C20H23NO3
reactant | K2CO3 | 0.74 mmol, 103 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1-propanol | 0.62 mmol, 86 mg | BrCCCO | C3H7BrO
reactant | K2CO3 | 103 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1-propanol | 86 mg | BrCCCO | C3H7BrO
solvent | MeCN | 5 ml | CC#N | C2H3N
product | 3-(3-[(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl]phenoxy)propan-1-ol | 76 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(OCCCO)C=CC2 | C23H29NO4
